US08389511B2
4-{2-[(Difluoroacetyl)amino]ethyl}-N-isopropyl-2,2,7-trimethyl-3-oxo-N-[(3R)-piperidin-3-yl]-3,4-dihydro-2H-1,4-benzothiazine-6-carboxamide hydrochloride
To a solution of tert-butyl (3R)-3-[[(4-{2-[(difluoroacetyl)amino]ethyl}-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)carbonyl](isopropyl)amino]piperidine-1-carboxylate (1 g) in chloroform (8 ml) was added a 4N hydrochloric acid/dioxane solution (8 ml), and the mixture was stirred at room temperature for one hour. The mixture was concentrated under reduced pressure to give the title compound (0.9 g).

reactant | tert-butyl (3R)-3-[[(4-{2-[(difluoroacetyl)amino]ethyl}-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzothiazin-6-yl)carbonyl](isopropyl)amino]piperidine-1-carboxylate | 1 g | FC(C(=O)NCCN1C(C(SC2=C1C=C(C(=C2)C)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)C)=O)F | C29H42F2N4O5S
reactant | hydrochloric acid dioxane | 4N, 8 ml | Cl.O1CCOCC1
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-{2-[(Difluoroacetyl)amino]ethyl}-N-isopropyl-2,2,7-trimethyl-3-oxo-N-[(3R)-piperidin-3-yl]-3,4-dihydro-2H-1,4-benzothiazine-6-carboxamide hydrochloride | 0.9 g | Cl.FC(C(=O)NCCN1C(C(SC2=C1C=C(C(=C2)C)C(=O)N([C@H]2CNCCC2)C(C)C)(C)C)=O)F | InChI=1S/C24H34F2N4O3S.ClH/c1-14(2)30(16-7-6-8-27-13-16)22(32)17-12-18-19(11-15(17)3)34-24(4,5)23(33)29(18)10-9-28-21(31)20(25)26;/h11-12,14,16,20,27H,6-10,13H2,1-5H3,(H,28,31);1H/t16-;/m1./s1
